* X:\Documents\GitHub\Hardware_Vocoder\Hardware\PreAmp.asc
* Generated by LTspice 24.1.6 for Windows.
X§U1 N007 N004 N001 0 N005 opa1656
X§U2 0 N006 N001 0 N008 opa1656
V§XLR_2 N002 0 SINE(0 1 1K)
V§XLR_3 N011 0 SINE(0 1 1K)
R1 N002 N010 R
R2 N010 N011 R
V1 N001 0 3.3V
C1 N010 0 C
R3 N001 N010 R
C3 N012 N011 C
C2 N003 N002 C
D1 N003 P001 D
D2 0 P001 D
D3 0 P002 D
D4 N012 P002 D
R5 0 N012 R
R4 N003 0 R
R6 N004 N003 R
R7 N007 N012 R
R8 N005 N004 R
R9 0 N007 R
R10 N006 N005 R
R§Pot1 N008 N006 R
R11 N009 N008 R
.model D D
.lib C:\users\steamuser\AppData\Local\LTspice\lib\cmp\standard.dio
.tran {5/fs}
.inc opa1656.lib
.param fs=4kHz
* XLR_1 (+GND)
* Output
.backanno
.end
